US04628059
A solution of 3-fluorobenzylamine (6.3 g, 0.05 mole) and triethylamine (15.4 ml, 0.11 mole) in 50 ml of tetrahydrofuran was added dropwise to a solution of thiophosgene (4.2 ml, 0.055 mole) in 50 ml of tetrahydrofuran with cooling to -10° C. over a period of twenty minutes. The mixture was stirred at 25° C. for 2.75 hours and filtered. The filtrate was treated with charcoal, then filtered and evaporated to an oil. The oil was diluted with hexane:ethyl acetate (90:10) and purified on a flash silica column eluted with hexane:ethyl acetate (90:10) to yield 4.3 g (51%) of 3-fluorobenzyl isothiocyanate as a yellow oil.

reactant | 3-fluorobenzylamine | 0.05 mole, 6.3 g | FC=1C=C(CN)C=CC1 | C7H8FN
reactant | triethylamine | 0.11 mole, 15.4 ml | C(C)N(CC)CC | C6H15N
reactant | thiophosgene | 0.055 mole, 4.2 ml | C(=S)(Cl)Cl | CCl2S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-fluorobenzyl isothiocyanate | 4.3 g, 51% | FC=1C=C(CN=C=S)C=CC1 | C8H6FNS
